US07405210B2
Preparation 30: 3-(3-Nitropyridin-2-yl)-2-oxopropionic acid ethyl ester
To a solution of potassium ethoxide (2.44 g, 27.7 mmol) in diethyl ether (90 mL) and ethanol (8 mL) was added diethyl oxalate (3.79 mL, 27.7 mmol) resulting in a yellow suspension. The reaction mixture was stirred for 5 min prior to the addition of 2-methyl-3-nitropyridine (Preparation 29, 3.40 g, 24.6 mmol) in one portion. The resulting red suspension was stirred at rt, under argon, for 20 h. The mixture was filtered, washed thoroughly with diethyl ether and dried. The red solid was dissolved in water and the mixture adjusted to pH 4 by addition of glacial acetic acid. The resulting precipitate was collected by filtration, dissolved in dichloromethane, washed with brine, dried (MgSO4), and then filtered and concentrated in vacuo to give the title compound as an orange solid. δH (CDCl3): 1.40 (3H, t), 4.39 (2H, q), 7.34 (1H, s), 7.36 (1H, dd), 8.43 (1H, dd), 8.66 (1H, dd).

reactant | potassium ethoxide | 27.7 mmol, 2.44 g | [O-]CC.[K+]
reactant | diethyl oxalate | 27.7 mmol, 3.79 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 2-methyl-3-nitropyridine | 24.6 mmol, 3.40 g | CC1=NC=CC=C1[N+](=O)[O-] | C6H6N2O2
solvent | diethyl ether | 90 mL | C(C)OCC | C4H10O
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 3-(3-Nitropyridin-2-yl)-2-oxopropionic acid ethyl ester | C(C)OC(C(CC1=NC=CC=C1[N+](=O)[O-])=O)=O | C10H10N2O5
